US04727081
N-Isopropyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]1,2-hydrazine dicarboxamide
The compound is prepared by a method analogous to that of Example 20 from N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-hydrazine carboxamide and isopropyl isocyanate. The analytical values are summarized in Table I.

reactant | N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-hydrazine carboxamide | N1(CCCCC1)CC=1C=C(OCCCNC(=O)NN)C=CC1 | C16H26N4O2
reactant | isopropyl isocyanate | C(C)(C)N=C=O | C4H7NO
product | N-Isopropyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]1,2-hydrazine dicarboxamide | C(C)(C)NC(=O)NNC(=O)NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C20H33N5O3
